US03956374
Step A: 3,4-Diphenyl-2-butanone
Sodium hydride (8.4 g., 0.2 mole, oil dispersion) is suspended in glyme (400 ml.) and phenyl acetone (26.8 g., 0.2 mole) in glyme (50 ml.) is added dropwise with stirring. After complete addition the mixture is heated to reflux for one hour then cooled in a cold water bath. A solution of benzyl chloride (25.3 g., 0.2 mole) in glyme (50 ml.) is added then the mixture is refluxed for 12 hours. Removal of the inorganic salts by filtration followed by vacuum distillation of the residue gives 31.06 g., b.p 104°-107°/0.1 mm

reactant | Sodium hydride | 0.2 mole, 8.4 g | [H-].[Na+]
reactant | phenyl acetone | 0.2 mole, 26.8 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | benzyl chloride | 0.2 mole, 25.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | glyme | 400 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
product | 3,4-Diphenyl-2-butanone | C1(=CC=CC=C1)C(C(C)=O)CC1=CC=CC=C1 | C16H16O
